US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-4-bromo-5-chloro-thiophene-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 4-bromo-5-chlorothiophene-2-sulphonyl chloride in 25% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 143°-145° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-bromo-5-chlorothiophene-2-sulphonyl chloride | BrC=1C=C(SC1Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-4-bromo-5-chloro-thiophene-2-sulfonamide | 25% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=C(C1)Br)Cl)C | C8H5Br2ClN2O3S2
